US07632829B2
1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-morpholin-4-yl-ethyl)-[1,4]diazepan-5-one
A solution of 0.085 g (0.25 mmol) of 4-(2-chloro-ethyl)-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one in 1.3 ml of DMA was treated with 0.04 ml (0.50 mmol) of morpholine and stirred for 8 h at RT, a crystal of NaI was added and stirring was continued for 40 h. The reaction was extracted with aqueous saturated NaHCO3/EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4), concentrated and evaporated. Purification by catridges, Si-Amine, 70 ml, 20 g (EtOAc) gave 0.008 g (8%) of the title compound as off-white viscous oil. MS: 392.0 (MH+, Cl).

reactant | 4-(2-chloro-ethyl)-1-[(E)-3-(3-chloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | 0.25 mmol, 0.085 g | ClCCN1CCN(CCC1=O)C(\C=C\C1=CC(=CC=C1)Cl)=O | C16H18Cl2N2O2
reactant | morpholine | 0.50 mmol, 0.04 ml | N1CCOCC1 | C4H9NO
reactant | NaI | [Na+].[I-]
solvent | DMA | 1.3 ml | CC(=O)N(C)C | C4H9NO
product | 1-[(E)-3-(3-Chloro-phenyl)-acryloyl]-4-(2-morpholin-4-yl-ethyl)-[1,4]diazepan-5-one | 0.008 g, 8% | ClC=1C=C(C=CC1)/C=C/C(=O)N1CCN(C(CC1)=O)CCN1CCOCC1 | C20H26ClN3O3
